US08013154B2
E. Preparation of N′[3-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridin-2-yl]-N-methyl-N-(4-bromophenyl)urea
4-Nitrophenyl-3-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridin-2-ylcarbamate (520 mg, 1.1 mmol) was dissolved in anhydrous THF (3 mL). To this solution was added N-methyl-4-bromoaniline (200 mg, 1.1 mmol). The reaction was allowed to stir for 12 d. The THF was evaporated and the crude material purified by reverse phase chromatography (HPLC grade CH3CN and H2O, both with 0.1% acetic acid) to afford the product as a tan solid (275 mg, 48% yield): mp 89-90° C.; 1H NMR (CDCl13) δ 8.78 (s, 1H), 7.57 (d, J=8.8 Hz, 2H), 7.29 (d, J=8.8 Hz, 2H), 6.79 (d, J=4.7 Hz, 1H), 5.04-4.95 (q, J=8.8 Hz, 2H), 4.94-4.85 (q, J=9.1 Hz, 2H), 3.27 (s, 3H); ESI/MS 520, 522 (M+H), 518, 520 (M−H).

reactant | 4-Nitrophenyl-3-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridin-2-ylcarbamate | 1.1 mmol, 520 mg | [N+](=O)([O-])C1=CC=C(C=C1)N(C([O-])=O)C1=NC(=CC(=C1F)OCC(F)(F)F)OCC(F)(F)F
reactant | N-methyl-4-bromoaniline | 1.1 mmol, 200 mg | CNC1=CC=C(C=C1)Br | C7H8BrN
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N′[3-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridin-2-yl]-N-methyl-N-(4-bromophenyl)urea | 275 mg, 48% yield | FC=1C(=NC(=CC1OCC(F)(F)F)OCC(F)(F)F)NC(N(C1=CC=C(C=C1)Br)C)=O | C17H13BrF7N3O3
